US04640915
Ozone was passed through a solution of methyl 2-[(3S, 4R)-3-(1-methoxy-1-methylethyl)-2-oxo-4-allylazetidin-1-yl[-3-methylbut-2-enoate (1.45 g) in methanol (87 ml) at -78° C. over a period of 50 minutes. The resultant blue solution was babbled with nitrogen for 20 minutes, and dimethyl sulfide (14.5 ml) was added to the mixture. The mixture was allowed to warm to -20° C. over a period of 20 minutes, stored at -20° C. for 2 hours and at 0° C. for additional 4 hours, followed by allowing to stand at ambient temperature overnight. Trimethyl orthoformate (7.25 ml) and p-toluenesulfonic acid monohydrate (93.3 mg) were added and the resultant mixture was stirred for an hour at 50° C. After cooling to 0° C., pyridine (40.4 μl) was added thereto. After concentration, the residue was dissolved in ethyl acetate ( 100 ml) and then washed with a mixture of 1N hydrochloric acid (0.5 ml) and a saturated aqueous sodium chloride. The aqueous washings were extracted with ethyl acetate (50 ml) and the combined extracts were washed with a mixture of 10% aqueous sodium bicarbonate and a saturated aqueous sodium chloride, and a saturated aquueous sodium chloride in turn. After drying over magnesium sulfate, the ethyl acetate extract was filtered and evaporated in vacuo. The residue was dissolved in methanol (43.5 ml) and sodium methoxide (4.9M 0.15 ml) was added at 0° C. After stirring for 30 minutes at 0° C., acetic acid (42.2 ml) was added, and then the solvent was distilled off in vacuo. The residue was chromatographed on silica gel (30 g) eluting with a mixture of methylene chloride and ethyl acetate (20:1 to 1:2) to give (3S, 4R)-4-(2,2-dimethoxyethyl)-3-(1-methoxy-1-methylethyl)azetidin-2-one (1.03 g) as an oil.

reactant | Ozone | O=[O+][O-] | O3
reactant | 3-methylbut-2-enoate | 1.45 g | CC(=CC(=O)[O-])C
reactant | dimethyl sulfide | 14.5 ml | CSC | C2H6S
reactant | Trimethyl orthoformate | 7.25 ml | C(OC)(OC)OC | C4H10O3
reactant | p-toluenesulfonic acid monohydrate | 93.3 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | pyridine | 40.4 μl | N1=CC=CC=C1 | C5H5N
solvent | methanol | 87 ml | CO | CH4O
product | (3S, 4R)-4-(2,2-dimethoxyethyl)-3-(1-methoxy-1-methylethyl)azetidin-2-one | 1.03 g | COC(C[C@@H]1[C@H](C(N1)=O)C(C)(C)OC)OC | C11H21NO4
